US04284631
A mixture of 2-(2-formamidothiazol-4-yl)-glyoxylic acid (1.59 g.), tert-butyl N-aminooxyethylcarbamate (1.40 g.) and methanol (25 ml.) was stirred at room temperature for 6 hours. After removal of methanol from the resultant solution under reduced pressure, the residue was pulverized with diethyl ether. The precipitates were collected by filtration to give 2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid (syn isomer, 2.20 g.).

reactant | 2-(2-formamidothiazol-4-yl)-glyoxylic acid | 1.59 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=O | C6H4N2O4S
reactant | tert-butyl N-aminooxyethylcarbamate | 1.40 g | NOCCNC(OC(C)(C)C)=O | C7H16N2O3
solvent | methanol | 25 ml | CO | CH4O
product | 2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid | 2.20 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCNC(=O)OC(C)(C)C | C13H18N4O6S
